* /home/bhawarth/esim-workspace/smart_lock/smart_lock.cir

* u4  clk reset din net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ adc_bridge_3
* u5  net-_u1-pad4_ out dac_bridge_1
v1  net-_r1-pad1_ gnd pulse(0 5 0 0.1m 0.1m 1 2)
v2  reset gnd pulse(0 5 0 0.1m 0.1m 1 1000)
r1  net-_r1-pad1_ clk 1k
r2  clk gnd 1k
* u2  clk plot_v1
* u6  out plot_v1
* u3  reset plot_v1
* u7  din plot_v1
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ fsm_lock
v3  din gnd pulse(5 0 0 0.1u 0.1u 2 4.5)
a1 [clk reset din ] [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ ] u4
a2 [net-_u1-pad4_ ] [out ] u5
a3 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ ] [net-_u1-pad4_ ] u1
* Schematic Name:                             adc_bridge_3, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u5 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             fsm_lock, NgSpice Name: fsm_lock
.model u1 fsm_lock(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 0.1e-00 40e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(clk) v(out)+6 v(reset)+12 v(din)+18
.endc
.end
